US06908913B2
b) 7-[(2S,4R)-4-Methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazole
7-[(2S,4R)-4-Hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazole (850 mg) was dissolved in 20 ml of dichloromethane and 7 ml of DMF under ice cooling to prepare a solution. Triethylamine (0.425 ml) and 0.19 ml of methanesulfonyl chloride were added to the solution, and the mixture was stirred for 30 min. Water was added to the reaction solution, and the mixture was extracted with dichloromethane, followed by washing twice with brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was then removed by distillation to give 734 mg of a crude product of 7-[(2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazole.

reactant | 7-[(2S,4R)-4-Hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazole | 850 mg | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)C=1N=CN2C1SC=C2 | C18H16N4O6S
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
reactant | Triethylamine | 0.425 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.19 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 7-[(2S,4R)-4-Methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazole | 734 mg | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)C=1N=CN2C1SC=C2 | C19H18N4O8S2
